### PR TITLE
feat(ForMathlib/RadialSchwartz): the submodule of radial Schwartz functions

### PR DESCRIPTION
**Pull request by thefundamentaltheor3m**
This PR defines the submodule of the Schwartz space consisting of radial Schwartz functions and proves important properties about them.

### CODE REVIEW

File: SpherePacking/ForMathlib/RadialSchwartz/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,296 @@
...
+
+/-- A function on a space with a norm is *radial* if its value at a point depends only on the norm
+of that point. -/
+def IsRadial [Norm E] (f : E → F) : Prop :=
+  ∀ {x y : E}, ‖x‖ = ‖y‖ → f x = f y
+
+-- *TODO:*
+-- This is a much more general notion: invariance under composition by a function
+-- (actually, invariance under a relation). There should be some infra for that.
+-- If so, interface with it. If not, develop it.
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/RadialSchwartz/Basic.lean]: You're looking for Function.FactorsThrough here

**Comment by b-mehta** [comment]
looks reasonable to me

File: SpherePacking/ForMathlib/RadialSchwartz/Basic.lean (hunk 1 above)
Comment (thefundamentaltheor3m) [reply SpherePacking/ForMathlib/RadialSchwartz/Basic.lean]: Thanks! I'll add this soon

File: SpherePacking/ForMathlib/RadialSchwartz/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,301 @@
...
+    rw [star_trivial]
+    aesop
+
+variable {f : RadialSchwartzMap 𝕜 E F}
+
+lemma mem_selfAdjoint_iff :
+  f ∈ selfAdjoint (RadialSchwartzMap 𝕜 E F) ↔ 𝓕 f = f := by rfl
+
+lemma mem_skewAdjoint_iff :
+  f ∈ skewAdjoint (RadialSchwartzMap 𝕜 E F) ↔ 𝓕 f = -f := by rfl
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/RadialSchwartz/Basic.lean]:
```suggestion
lemma mem_selfAdjoint_iff : f ∈ selfAdjoint (RadialSchwartzMap 𝕜 E F) ↔ 𝓕 f = f := by rfl

lemma mem_skewAdjoint_iff : f ∈ skewAdjoint (RadialSchwartzMap 𝕜 E F) ↔ 𝓕 f = -f := by rfl
```
if this fits?

**Review by b-mehta — DISMISSED** [review]

File: SpherePacking/ForMathlib/RadialSchwartz/Basic.lean (hunk 2 above)
Comment (thefundamentaltheor3m) [reply SpherePacking/ForMathlib/RadialSchwartz/Basic.lean]: Yep it does, good catch
